US07005526B2
1-[2-(4-{2-[(E)-2-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole
To a solution of 650 mg (1.25 mmol) 1-[2-(2-methyl-4-{2-[2-(E)-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H[1,2,3]triazole in 35 ml dichloromethane at −30° C. were added dropwise during 20 min. 493 mg (2.20 mmol) 3-chloro-benzenecarboperoxoic acid (77% peracid) dissolved in 20 ml ethyl acetate. After 1 hour stirring at −30° C. the mixture was allowed to warm up over night, stirred another 48 hours at room temperature, diluted with dichloromethane, washed with sodium bicarbonate solution, then with water, dried and evaporated. Elution from silica with ethyl acetate (1–10% methanol gradient) furnished as the second fraction 310 mg (46%) title compound as white solid.

reactant | 1-[2-(2-methyl-4-{2-[2-(E)-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzylsulfanyl)-ethyl]-1H[1,2,3]triazole | 1.25 mmol, 650 mg | CC1=C(CSCCN2N=NC=C2)C=CC(=C1)OCC=1N=C(OC1)\C=C\C1=C(C=C(C=C1)C(F)(F)F)F | C25H22F4N4O2S
reactant | 3-chloro-benzenecarboperoxoic acid | 2.20 mmol, 493 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-{2-[(E)-2-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-2-methyl-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 310 mg, 46% | FC1=C(C=CC(=C1)C(F)(F)F)/C=C/C=1OC=C(N1)COC1=CC(=C(C=C1)CS(=O)CCN1N=NC=C1)C | C25H22F4N4O3S
